US09024041B2
A mixture of 4-(2-chloropyridin-4-ylthio)naphthalen-1-amine (1.40 g, 90% purity, 4.40 mmol) and (2,4-dimethoxyphenyl)methanamine (3.7 mL, 24 mmol) was heated together at 120° C. for 24 hr. The reaction mixture was loaded directly onto silica and purified by flash column chromatography (SiO2, 80 g, EtOAc in isohexane, 30-70%, gradient elution) to afford 4-(4-aminonaphthalen-1-ylthio)-N-(2,4-dimethoxybenzyl)pyridin-2-amine as a dark red oil (710 mg, 37%); Rt 1.74 min (Method 2); m/z 418 (M+H)+ (ES+).

reactant | 4-(2-chloropyridin-4-ylthio)naphthalen-1-amine | 4.40 mmol, 1.40 g | ClC1=NC=CC(=C1)SC1=CC=C(C2=CC=CC=C12)N | C15H11ClN2S
reactant | (2,4-dimethoxyphenyl)methanamine | 24 mmol, 3.7 mL | COC1=C(C=CC(=C1)OC)CN | C9H13NO2
product | 4-(4-aminonaphthalen-1-ylthio)-N-(2,4-dimethoxybenzyl)pyridin-2-amine | 710 mg, 37% | NC1=CC=C(C2=CC=CC=C12)SC1=CC(=NC=C1)NCC1=C(C=C(C=C1)OC)OC | C24H23N3O2S
